US07592160B2
Preparation of Isomaltose from α-isomaltosylglucosaccharide and Cyclotetrasaccharide
To a 0.2% aqueous solution of panose, α-isomaltosylmaltose, α-isomaltosyltriose, α-isomaltosyltetraose, or cyclotetrasaccharide was added 100 units/g solid, d.s.b., of an isomaltodextranase specimen, obtained by the method in Experiment 29, where 3,000 units/g solid, d.s.b., of the specimen was also used for the aqueous solution with cyclotetrasaccharide. The mixture was subjected to an enzymatic reaction at 40° C. and pH 5.5 for 24 hours and heated at 100° C. for 20 min to suspend the enzymatic reaction. The saccharide composition of the resulting mixture was analyzed on HPLC using column of “MCIGEL CK04SS”, a column commercialized by Mitsubishi Chemical Industries, Ltd., Tokyo, Japan; an inner column temperature of 80° C.; a flow rate of 0.5 ml/min of water as an eluate; and a detector of “RI-8012”, a differential refractometer commercialized by Tosoh Corporation, Tokyo, Japan. The results are in Table 34.

reactant | panose | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)OC[C@@H]2[C@H]([C@@H]([C@H]([C@H](O2)O[C@H]([C@@H](CO)O)[C@@H]([C@H](C=O)O)O)O)O)O)O)O)O)O | C18H32O16
solvent | water | O | H2O
product | Isomaltose | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)OC[C@@H]2[C@H]([C@@H]([C@H](C(O2)O)O)O)O)O)O)O)O | C12H22O11
